US05238955
α-Methyl-homo-phenylalanine-methyl ester
430 ml methanol are cooled to -10° C. in an ice/sodium chloride mixture and reacted with 21.3 ml thionyl chloride (exothermic reaction). 44.5 g (0.23 mol) α-methyl-homo-phenylalanine are added dropwise at room temperature. Boiling under reflux occurs for 8.5 hours, the mixture is concentrated in a rotary evaporator, taken up with H2O (350 ml) and reacted with 150 ml 25% NH4OH solution. Extraction with dichloromethane occurs 5× and the combined extracts are dried over calcium carbonate and concentrated in a rotary evaporator. Yellowish oil.

reactant | thionyl chloride | 21.3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | α-methyl-homo-phenylalanine | 0.23 mol, 44.5 g | C[C@](N)(CCC1=CC=CC=C1)C(=O)O | C11H15NO2
reactant | methanol | 430 ml | CO | CH4O
product | α-Methyl-homo-phenylalanine-methyl ester | COC([C@@](N)(CCC1=CC=CC=C1)C)=O | C12H17NO2
